US04351975
130 parts of chlorosulfonic acid are introduced, at room temperature, into a reaction vessel, and 42.8 parts of 1,3-bis-(trifluoromethyl)-benzene and 2 parts of iodine are added. The suspension is cooled to 0° and 30 parts of chlorine are introduced in the course of 5 hours at 0° to 5°. The suspension is then poured out onto ice and the organic phase is separated from the aqueous phase. The organic phase is washed neutral with ice-cold water and is dried over calcined sodium sulfate. 38 parts of 5-chloro-1,3-bis-(trifluoromethyl)-benzene, of boiling point 111° to 112°, are obtained.

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 1,3-bis-(trifluoromethyl)-benzene | FC(C1=CC(=CC=C1)C(F)(F)F)(F)F | C8H4F6
reactant | iodine | II | I2
reactant | chlorine | ClCl | Cl2
product | 5-chloro-1,3-bis-(trifluoromethyl)-benzene | ClC=1C=C(C=C(C1)C(F)(F)F)C(F)(F)F | C8H3ClF6
